US06936306B1
Synthesis of methoxy(ethoxyethoxy)acetate-alumoxane
Methoxy(ethoxyethoxy)acetic acid (60 mL) was dissolved in 300 mL of water and Vista Captal B boehmite (12 g) was slowly added and allowed to reflux for 96 hours. The clear/yellow solution was filtered and the filtrate was evaporated under reduced pressure to a yellow gel. The gel was dissolved in ethanol and the white/yellow powder product was obtained upon addition of diethyl ether. Yield: 13.6 g. The TGA of the methoxy(ethoxy)acetate-alumoxane showed 22.3% ceramic yield (weight loss of 77.7% ). The alumoxane was heated from 25° C. to 200° C. at the rate of 1.5° C.min−1, soaked for 2 h. at 200° C., followed by a temperature ramp up to 1000° C. at the rate of 5° C.min−1, soaked for 2 h.

reactant | Methoxy(ethoxyethoxy)acetic acid | 60 mL | COC(C(=O)O)OCCOCC | C7H14O5
reactant | methoxy(ethoxy)acetate alumoxane | COC(C(=O)[O-])OCC.[AlH]1OCCCC1
reactant | alumoxane | [AlH]1OCCCC1
solvent | water | 300 mL | O | H2O
product | methoxy(ethoxyethoxy)acetate alumoxane | COC(C(=O)[O-])OCCOCC.[AlH]1OCCCC1 | InChI=1S/C7H14O5.C4H8O.Al.H/c1-3-11-4-5-12-7(10-2)6(8)9;1-2-3-4-5;;/h7H,3-5H2,1-2H3,(H,8,9);1-4H2;;/q;-1;+1;/p-1
